US05158951
Preparation of N-propyl-8-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide
A mixture containing 16.32 g (0.08 mol) of 8-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid and 12.4 ml (0.088 mol) of triethylamine in 480 ml of chloroform is cooled below -10° C. by ice salt. A solution of 6.5 ml (0.08 mol) of methyl chloroformate dissolved in 40 ml of chloroform is dropped to the above mixture at -18° C. during 10 minutes. After stirring for 5 minutes, 5.2 g (0.088 mol) of propylamine dissolved in 80 ml of chloroform are dropped to the above solution at -18° C. during 60 minutes. The reaction mixture is stirred at -10° C. for 1 hour, then allowed to stand under cooling by ice. For working up, the reaction mixture is washed 3 times with 150 ml of 5% sodium hydrogen carbonate solution each, then 3 times with 150 ml of water each. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated to give 17.3 g (88.2%) of the named compound as yellow crystals after recrystallization from ethanol, m.p.: 194°-196° C.

reactant | 8-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.08 mol, 16.32 g | CC1=CC=2N(C(C(=CN2)C(=O)O)=O)C=C1 | C10H8N2O3
reactant | triethylamine | 0.088 mol, 12.4 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.08 mol, 6.5 ml | ClC(=O)OC | C2H3ClO2
reactant | propylamine | 0.088 mol, 5.2 g | C(CC)N | C3H9N
solvent | chloroform | 480 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | N-propyl-8-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide | 17.3 g, 88.2% | C(CC)NC(=O)C1=CN=C2N(C1=O)C=CC(=C2)C | C13H15N3O2
